US08859534B2
Azetidin-1-yl(7-(piperazin-1-yl)benzofuran-2-yl)methanone
The compound was prepared according to the procedure disclosed in Example 39d starting from azetidin-1-yl(7-(4-benzylpiperazin-1-yl)benzofuran-2-yl)methanone (0.52 g, 1.38 mmol) and acetic acid (0.63 mL, 11.1 mmol). A solution of ammonia (3 mL, 7N in MeOH) was added to the mixture after the reaction was complete. The solvent was removed by rotary evaporation. The crude product was purified by flash chromatography (SiO2; gradient 0-10% ammonia (7N in MeOH) in DCM). Yield: 0.36 g (91%).

reactant | azetidin-1-yl(7-(4-benzylpiperazin-1-yl)benzofuran-2-yl)methanone | 1.38 mmol, 0.52 g | N1(CCC1)C(=O)C=1OC2=C(C1)C=CC=C2N2CCN(CC2)CC2=CC=CC=C2 | C23H25N3O2
reactant | acetic acid | 11.1 mmol, 0.63 mL | C(C)(=O)O | C2H4O2
reactant | ammonia | 7N, 3 mL | N | H3N
product | Azetidin-1-yl(7-(piperazin-1-yl)benzofuran-2-yl)methanone | N1(CCC1)C(=O)C=1OC2=C(C1)C=CC=C2N2CCNCC2 | C16H19N3O2
